US07902203B2
methyl 3-[(2E)-2-benzylidenehydrazino]thiophene-2-carboxylate
A solution of methyl 3-hydrazinothiophene-2-carboxylate (Maybridge technical grade, 2.0 g, 0.11 mol) in ethanol (250 mL) at 25° C. was reacted with a solution of benzaldehyde (12.32 g, 0.11 mol) in ethanol (100 mL). The mixture was stirred at 25° C. for 1.5 hours and concentrated to yield 30 g of a white solid. HPLC/MS show a single peak with retention time of 2.35 min. and a M+1 peak of 261. 1H NMR (300 MHz, CDCl3) δ ppm 3.85 (s, 3 H) 7.35 (m, 4 H) 7.64 (dd, J=8.09, 1.47 Hz, 2 H) 7.77 (s, 1 H) 10.10 (s, 1 H).

reactant | methyl 3-hydrazinothiophene-2-carboxylate | 0.11 mol, 2.0 g | N(N)C1=C(SC=C1)C(=O)OC | C6H8N2O2S
reactant | benzaldehyde | 0.11 mol, 12.32 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 3-[(2E)-2-benzylidenehydrazino]thiophene-2-carboxylate | 30 g | C(/C1=CC=CC=C1)=N\NC1=C(SC=C1)C(=O)OC | C13H12N2O2S
